US06423699B1
6-Bromo-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one.
To a solution of [(5-bromo-2-nitro-phenyl)-isopropyl-amino] acetic acid (27 g, 85 mmol) in acetic acid (400 ml) was added iron powder (15 g, 0.27 mol) and the mixture was stirred for 2 hrs. at 90° C. The reaction mixture was cooled, filtered, and the acetic acid was evaporated. The remaining slurry was extracted with CH2CI2 (3×300 ml). The CH2Cl2 extracts were combined, dried (MgSO4) and evaporated to afford the subtitled compound (16.8 g, 73%): 1H-NMR (DMSO-d6) δ 1.13 (d, J=6.54 Hz, 6H), 3.57 (s, 2H), 3.99 (septet, J=6.54 Hz, 1H), 6.82 (dd, J=8.23, 1.88 Hz, 1H), 6.72 (d, J=8.17 Hz, 1H), 6.90 (d, J=1.59Hz, 1H), 10.50 (s, 1H): MS (EI) 267/269 (M)+ + 1 bromine.

reactant | [(5-bromo-2-nitro-phenyl)-isopropyl-amino] acetic acid | 85 mmol, 27 g | BrC=1C=CC(=C(C1)N(C(C)C)CC(=O)O)[N+](=O)[O-] | C11H13BrN2O4
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.27 mol, 15 g | [Fe] | Fe
product | 6-Bromo-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one | 16.8 g, 73% | BrC=1C=C2N(CC(NC2=CC1)=O)C(C)C | C11H13BrN2O
